* Input impedance / return loss at bond pads — 100 Ohm differential reference
.include {DUT_CIR}

Vdd vdd 0 dc {VDD}
XU1 {DUT_PORTS} {DUT_NAME}
{DUT_BIAS}
* Common-mode bias; differential AC current probe between pads
Vcm cm 0 dc {VBASE}
Rcm_p cm inp 1e9
Rcm_n cm inn 1e9
Iac inp inn dc 0 ac 1

* CTLE input load on stage outputs
Cload_p outp 0 {CL_TB}
Cload_n outn 0 {CL_TB}

.options gmin=1e-18 abstol=1e-15 reltol=1e-3

.control
save v(inp) v(inn) v(outp) v(outn) v(xu1.vtt)
ac dec 300 1e6 100e9
set wr_singlescale
wrdata zin.raw frequency vm(inp) vp(inp) vm(inn) vp(inn)
.endc
.end
